datasets/10k_Mayr_OG.csv
SMILES Labelled
C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[NH2:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10=20
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CC[N+](CC)(CC)[BH-:11](Br)[H:10]>>C1=CC=C([S:32]([C-:21]([CH:20]([H:10])[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CC[N+](CC)(CC)[BH:11]Br 10,11=10,20;20,21=21"
"C1=CC2=C(C=C1)[S:62][C:11]1=[CH:10]CCC[N:12]21.CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F>>CC(C)(C1=CC=CC=C1)[O-:21].FC(F)(F)[S:20][CH:10]1CCC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CC[O:82][C:71]([C-:10](C)[C:61](=[O:62])[O:92]CC)=[O:72]>>CC[O:82][C:71]([C:10](C)([CH:20]1CC[C:22]([O-:23])=[CH:21]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.[N:10]1=[CH:11][NH:12][CH:62]=[CH:61]1>>C1C[C:20]([N:10]2[CH:11]=[NH+:12][CH:62]=[CH:61]2)([O-:21])CCS1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CO[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([S:10][CH2:20][C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:72]=[CH:73]1 10=20;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CC[O:33][C:22](=[CH:21][CH2:20][CH:10](C)C1=CC=CC=C1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:20](=[O:21])CC1.CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2>>C1CC[C:20]([H:10])([O-:21])CC1.CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2 10,11=10,20;20,21=21"
CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]1[CH2:20][C:31]12C3[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10=20
"CCC[NH:10]CCC.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CCC[NH+:10](CCC)[CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([NH+:10]1CCC[C@H]1CN1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20]1[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"C1CC[N:72]([C:61]([S-:10])=[S:62])CC1.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>N#C[C:20]1([S:10][C:61](=[S:62])[N:72]2CCCCC2)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"C[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>C[C:13]1=[O+:14][CH:10]([C:20]2([O-:21])[C:31](Cl)=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41]2Cl)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.[O-:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([O:10][C:61]1=[CH:62][CH:63]=[N:64][CH:73]=[CH:72]1)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[S:20]C(F)(F)F.C[N-:21]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>F[C:20]1([C:10](C2=CC=CC=C2)([C:11](=[O:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
